US07176224B2
2-[(4-Benzyloxyphenyl)-hydroxymethyl]-2-phenoxy-butyric acid ethyl ester (9.5 mmol) in anhydrous CH2Cl2 (30 mL) was cooled to 0° C. and treated with BF3-Et2O (1.16 mL, 9.5 mmol) and triethylsilane (1.51 mL, 9.5 mmol). The mixture was stirred for 2 h and gradually warmed to ambient temperature. Saturated aqueous Na2CO3 (15 mL) was added and the mixture was stirred vigorously. The solution was partitioned and the organic layer was washed twice with water and brine, dried over Na2SO4, and concentrated in vacuo to produce 2-(4-benzyloxybenzyl)-2-phenoxybutyric acid ethyl ester as an oil.

reactant | 2-[(4-Benzyloxyphenyl)-hydroxymethyl]-2-phenoxy-butyric acid ethyl ester | 9.5 mmol | C(C)OC(C(CC)(OC1=CC=CC=C1)C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C26H28O5
reactant | BF3 Et2O | 9.5 mmol, 1.16 mL | B(F)(F)F.CCOCC
reactant | triethylsilane | 9.5 mmol, 1.51 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | Na2CO3 | 15 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-benzyloxybenzyl)-2-phenoxybutyric acid ethyl ester | C(C)OC(C(CC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C26H28O4
